US07666871B2
Add methanesulfonyl chloride (0.086 g, 0.60 mmol) to a cool (0° C.) solution of 3-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-propan-1-ol (0.170 g, 0.458 mmol) and triethylamine (0.070 g, 0.69 mmol) in dichloromethane (3 mL). Warm the reaction mixture to room temperature and stir for 1 hour. Add dichloromethane and wash the crude organic material with saturated sodium chloride solution. Dry the organic extracts over Na2SO4, filter, and concentrate to give crude methanesulfonic acid 3-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-propyl ester (0.206 g, 100%): MS (m/e): 450(M+1).

reactant | methanesulfonyl chloride | 0.60 mmol, 0.086 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-propan-1-ol | 0.458 mmol, 0.170 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCCO)C | C20H21NO4S
reactant | triethylamine | 0.69 mmol, 0.070 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 3-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-propyl ester | 0.206 g, 100% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCCOS(=O)(=O)C)C | C21H23NO6S2
